US07037914B2
3-methoxymethoxybenzyl bromide
To a solution of the compound prepared in Reference Example 2 (2.48 g) and triphenylphosphine (4.64 g) in dichloromethane (150 ml), carbon tetrabromide (7.34 g) was added and the mixture was stirred at room temperature for 30 minutes. To the reaction mixture was added a saturated aqueous solution of sodium bicarbonate and was extracted with dichloromethane. The extract was washed with a saturated aqueous solution of sodium chloride, dried over anhydrous magnesium sulfate and concentrated. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=5:1) to give the tittle compound (4.41 g) having the following physical data.

reactant | triphenylphosphine | 4.64 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 7.34 g | C(Br)(Br)(Br)Br | CBr4
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 3-methoxymethoxybenzyl bromide | 4.41 g | COCOC=1C=C(CBr)C=CC1 | C9H11BrO2
